US05232898
A suspension of 6.45 g of 6-[3-(ethoxycarbonylamino)-2-pentenoylamino]-3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine and 3.22 g of sodium methylate in 6.5 ml of methanol is stirred at 62° C. for 4 hours. The solution which thus results is left to stand at room temperature for 64 hours and subsequently poured into a solution of 15 ml of 2N hydrochloric acid in 400 ml of water. The resulting precipitate is filtered off under suction, washed with water and recrystallized from acetone/n-hexane. In this manner there is obtained 6-ethyl-3-[3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine-6-yl]-2,4(1H,3H)-pyrimidinedione, m.p. 240° C. (with decomposition).

reactant | 6-[3-(ethoxycarbonylamino)-2-pentenoylamino]-3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | 6.45 g | C(C)OC(=O)NC(=CC(=O)NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F)CC | C19H20FN3O5
reactant | sodium methylate | 3.22 g | C[O-].[Na+]
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | methanol | 6.5 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 6-ethyl-3-[3,4-dihydro-7-fluoro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine-6-yl]-2,4(1H,3H)-pyrimidinedione | C(C)C1=CC(N(C(N1)=O)C=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F)=O | C17H14FN3O4
